US07148226B2
6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-3-(2-ethyl 5-methyl-1H-imidazol-4-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example A(126), where 6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione was substituted in place of 6-Cyclopentyl-6-[2-(3-ethyl-4-hydroxy-phenyl)-ethyl-dihydro-pyran-2,4-dione and 2-ethyl-5-formyl-4-methylimidazole was substituted in place of 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde of that example. 1H NMR (400 MHz, DMSO-d6): δ 1.07–1.34 (m, 6H), 1.49–1.81 (m, 10H), 2.13 (s, 3H), 2.28–2.35 (m, 1H), 2.39–2.68 (m, 8H), 3.40 (d, J=6.9 Hz, 2H), 3.68 (s, 3H), 6.41 (s, 1H), 6.74 (s, 1H). Anal. Calcd. For C28H38N2O5.1H2O: C, 67.18; H, 8.05; N, 5.60. Found: C, 67.50; H, 8.09; N, 5.60. MS(ESI): 483.2 (M+H)+.

reactant | 6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=C(C=C(C(=C1)CC)O)OC | C21H28O5
reactant | 2-ethyl-5-formyl-4-methylimidazole | C(C)C=1NC(=C(N1)C)C=O | C7H10N2O
reactant | 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
product | 6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-3-(2-ethyl 5-methyl-1H-imidazol-4-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC=1N=C(NC1C)CC)O)CCC1=C(C=C(C(=C1)CC)O)OC | C28H38N2O5
